US06262095B1
2-Amino-3-bromo-1,4-dihydro-1,4-dioxo-8-methoxynaphthalene
To a solution of 500.0 mg (1.5 mmol) of 2,3-dibromo-1,4-dihydro-1,4-dioxo-5-methoxynaphthalene in 25 mL of tetrahydrofuran, a drop of ammonia is added. The color of the reaction medium turns black. A current of ammonia is passed through the medium for 2 h at 20° C. The raw product obtained after evaporation of the solvent is purified on cake (support: silica; eluant: dichloromethane/heptane, 80/20) to produce 347.3 g of a mixture of 2-amino-3-bromo-1,4-dihydro-1,4-dioxo-5-methoxynaphthalene and 2-amino-3-bromo-1,4-dihydro-1,4-dioxo-8-methoxynaphthalene.

reactant | 2,3-dibromo-1,4-dihydro-1,4-dioxo-5-methoxynaphthalene | 1.5 mmol, 500.0 mg | BrC=1C(C2=CC=CC(=C2C(C1Br)=O)OC)=O | C11H6Br2O3
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 2-Amino-3-bromo-1,4-dihydro-1,4-dioxo-8-methoxynaphthalene | 347.3 g, Yield: 82% | NC=1C(C2=C(C=CC=C2C(C1Br)=O)OC)=O | C11H8BrNO3
